US05604213
17-(3-Pyridyl)-5α-androst-16-en-3-one
From a solution of 17-(3-Pyridyl)-5α-androst-16-en-3α-ol (1.05 g, 3.0 mmol) in dry toluene (60 ml) and cyclohexanone (10 ml) was distilled off part of the solvent (20 ml) to eliminate moisture. After allowing to cool to 90° C., aluminium isopropoxide (1.02 g, 5.0 mmol) was added and the mixture heated under reflux for 90 min. then allowed to cool. The mixture was diluted with diethyl ether (250 ml), washed with aqueous trisodium citrate (15% w/v; 2×30 ml), dried (Na2CO3), and concentrated. Chromatography, on elution with toluene-methanol (40:1), afforded the title compound (0.90 g, 86%) which crystallised from toluene, m.p. 190°-192° C. IR νmax 1713 cm-1 ; 1H-NMR (CDCl3) inter alia δ1.04 (3H,s,19-CH3), 1.07 (3H,s,18-CH3), 5.98 (1H,M,16-H), 7.22 (1H,m,Py 5-H), 7.64 (1H,m,Py 4-H), 8.46 (1H,m,Py 6-H), 8.61 (1H,m,Py 2-H); MS m/z 349 (M+). Anal. Calcd: C,82.47; H,8.94; N,4.01. Found: C,82.00; H,8.94; N,3.84%

reactant | 17-(3-Pyridyl)-5α-androst-16-en-3α-ol | 3.0 mmol, 1.05 g | N1=CC(=CC=C1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O | C24H33NO
reactant | aluminium isopropoxide | 5.0 mmol, 1.02 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexanone | 10 ml | C1(CCCCC1)=O | C6H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 17-(3-Pyridyl)-5α-androst-16-en-3-one | 0.90 g, 86% | N1=CC(=CC=C1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C24H31NO
